US07214673B2
8-Fluoro-11-{3-[2-(4-fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepine
Heat a solution of 8-fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride (0.2 g, 0.60 mmol) and diisopropylethylamine (0.086 g, 0.66 mmol) in 1-methyl-2-pyrrolidinone (4 mL) to 60° C. After 30 minutes, add 2-[2-(4-fluoro-phenyl)-ethyl]-piperazine (0.38 g, 1.81 mmol) and heat the reaction mixture to 195° C. for 16 hours. Cool reaction mixture to ambient temperature. Dilute with of ethyl acetate (50 ml) and wash twice with saturated aqueous sodium chloride then twice with water. Collect the organic layer and dry over sodium sulfate. Remove solvent under reduced pressure. Purification via flash chromatography, eluting with a linear gradient starting with 100% dichloromethane and going to 85% of dichloromethane with 15% 2M ammonia in methanol, gives the free base of the title compound (0.083 g, 0.17 mmol, 28% yield) as a yellow amorphous solid: Mass Spectrum (m/e): 487(M+1).

reactant | 8-fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 0.60 mmol, 0.2 g | Cl.FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N)C1
reactant | diisopropylethylamine | 0.66 mmol, 0.086 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[2-(4-fluoro-phenyl)-ethyl]-piperazine | 1.81 mmol, 0.38 g | FC1=CC=C(C=C1)CCC1NCCNC1 | C12H17FN2
solvent | 1-methyl-2-pyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 8-Fluoro-11-{3-[2-(4-fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepine | 0.17 mmol, 0.083 g, 28% yield | FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N3CC(NCC3)CCC3=CC=C(C=C3)F)C1 | C26H23F5N4
